US04726841
Isohexadecanoic acid (20 g, 0.078 mol) and thionyl chloride (7.2 ml, 0.0984 mol) were refluxed together gently for 1 hour to produce isohexadecanoyl chloride and the reaction was monitored by infra-red spectroscopy. Excess thionyl chloride was distilled away under rotary pump vacuum at reflux temperature. The acyl chloride was dissolved in n-hexane (50 ml) and slowly added to a chilled stirred solution of n-propylamine (7.05 ml, 0.0858 mol, m 0.1 excess). The solution also contained triethylamine (12 ml, 0.0858 mol, 0.1 excess) in n-hexane (200 ml) to ensure base conditions. After the addition was completed the reaction mixture was stirred at room temperature for 3 hours until all the acyl chloride was consumed. This was detected by monitoring the shift in the carbonyl frequency by infra-red spectroscopy. A product mixture was produced which consisted of N-(n-propyl)-isohexadecamide. The produce mixture was washed with water (2×200 ml), 6M hydrochloric acid (4×100 ml), water (100 ml), saturated aqueous sodium bicarbonate (1×100 ml), saturated aqueous sodium chloride (1×100 ml) and dried over MgSO4 before being filtered and rotary evaporated to yield a yellow oil (22.4 g, 96.5%). Infra-red spectroscopy (liquid film) detected absorption peaks at 3280 cm-1 (broad, strong), 3080 cm-1 strong, 1630 cm-1 (strong) and 1540 cm-1 (strong).

reactant | Isohexadecanoic acid | 0.078 mol, 20 g | C(CCCCCCCCCCCCC(C)C)(=O)O | C16H32O2
reactant | thionyl chloride | 0.0984 mol, 7.2 ml | S(=O)(Cl)Cl | Cl2OS
product | isohexadecanoyl chloride | C(CCCCCCCCCCCCC(C)C)(=O)Cl | C16H31ClO
